US05543559
A solution of 23.2 g (106.3 mmol) of di-tert.-butyl dicarbonate in 25 ml of tetrahydrofuran was added dropwise to a suspension, stirred at 24° C., of 20.0 g (144.7 mmol) of K2CO3, 20 ml of tetrahydrofuran, 1.1 g (4.2 mmol) of 18-crown-6 and 15.2 g (100 mmol) of ketoisophorone. The suspension was stirred at 60° C. for 5 hours, then the brown reaction mixture was filtered and finally the solvent was evaporated. The brown residue (26.6 g) was dissolved in 200 ml of dichloromethane and the solution was extracted with saturated NaHCO3 solution and with water. The organic phase was dried over Na2SO4, filtered and evaporated. The brown residue (22.6 g) was chromatographed over 150 g of silica gel (n-hexane/ether 2/1). There were obtained 20.4 g (81%) of 4-tert.-butyloxycarbonyloxy-2,6,6-trimethylcyclohexa-2,4-dienone as a yellow oil; anal. calc. for C14H20O4 (252.31): C 66.65, H 7.99; found: C 66.46, H 8.08.1H-NMR (250 MHz, CDCl3): 1.25 (s, 2 CH3 --C(6)); 1.54 (s, (CH3)3C--O); 1.91 (s, CH3 --C(2); 5.88-5.89 (d, H--C(5)); 6.71-6.74 (m, H--C(5)

reactant | di-tert.-butyl dicarbonate | 106.3 mmol, 23.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | K2CO3 | 144.7 mmol, 20.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ketoisophorone | 100 mmol, 15.2 g | O=C1C(=CC(=O)CC1(C)C)C | C9H12O2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
catalyst | 18-crown-6 | 4.2 mmol, 1.1 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-tert.-butyloxycarbonyloxy-2,6,6-trimethylcyclohexa-2,4-dienone | 20.4 g, 81% | C(C)(C)(C)OC(=O)OC=1C=C(C(C(C1)(C)C)=O)C | C14H20O4
